US04954520
2E,4E-Pentadecadienal
Tributyl (2-ethoxyvinyl) stannane (6.4 g, 17.7 mmol) was stirred in 45 ml of THF and cooled to -78° C. 1.6 M Butyl lithium (10 ml, 16 mmol) was added and the mixture was stirred at -78° C. for 1 hour. 2E-tridecenal (3.0 g, 15.3 mmol) in 5 ml of THF was added, and the mixture was stirred for 1 hour at -78° C. The reaction was stirred with 5 ml of aqueous sodium bicarbonate for 5 minutes, then the organic layer was separated, washed with saturated sodium chloride, dried over sodium sulfate and concentrated to give the crude product. The crude product was flash chromatographed o silica gel using first hexane, then 100:1 to 10:1 hexane/ethyl acetate gradient as eluent to give the title compound (2.4 g, 10.8 mmol) 70.6%.

reactant | Tributyl (2-ethoxyvinyl) stannane | 17.7 mmol, 6.4 g | C(CCC)[Sn](C=COCC)(CCCC)CCCC
reactant | Butyl lithium | 16 mmol, 1.6 M, 10 ml | C(CCC)[Li]
reactant | 2E-tridecenal | 15.3 mmol, 3.0 g | C(\C=C\CCCCCCCCCC)=O | C13H24O
reactant | sodium bicarbonate | 5 ml | C([O-])(O)=O.[Na+]
solvent | THF | 45 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2E,4E-Pentadecadienal | 10.8 mmol, 2.4 g, 70.6% | C(\C=C\C=C\CCCCCCCCCC)=O | C15H26O
